US07576215B2
[4-(3-PHENOXYPHENYL)-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PHENYL)METHANONE
The title compound was prepared from [4-(3-hydroxy-phenyl)-8-trifluoromethylquinolin-3-yl]-phenyl methanone and phenyl boronic acid, following the procedure of Example 519: MS (ESI) m/z 470.

reactant | [4-(3-hydroxy-phenyl)-8-trifluoromethylquinolin-3-yl]-phenyl methanone | OC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H14F3NO2
reactant | phenyl boronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | [4-(3-PHENOXYPHENYL)-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PHENYL)METHANONE | O(C1=CC=CC=C1)C=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C29H18F3NO2
